US05154851
4-Methoxyphenyl acetylene (2.65 g, 0.02 mol) and 4-(1-propynyl)iodobenzene (5.0 g, 0.02 mol) were dissolved in diethylamine (20 ml), and then added copper iodide (0.06 g) and dichlorobistriphenylphosphinepalladium dichloride (0.21 g) were added. The resulting mixture was subjected to reaction and purification operations in the same manners as in Example 1, to obtain the objective 4-methoxy-4'-(1-propynyl)tolan (No. 297) (1.35 g).

reactant | 4-Methoxyphenyl acetylene | 0.02 mol, 2.65 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | 4-(1-propynyl)iodobenzene | 0.02 mol, 5.0 g | C(#CC)C1=CC=C(C=C1)I | C9H7I
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
catalyst | copper iodide | 0.06 g | [Cu](I)I
product | 4-methoxy-4'-(1-propynyl)tolan | COC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#CC | C18H14O
